US07494992B2
(1S,2R,4aS,5R,8R,8aR)-2-(hexanoyloxy)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate
To a solution of (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate (Preparation 139, 51 mg, 0.10 mmol) and 4-dimethylaminopyridine (14 mg, 0.11 mmol) in dichloromethane (5 ml) was added hexanoic anhydride (43 mg, 0.2 mmol) and the resulting mixture stood at room temperature over a weekend. The crude product was purified by column chromatography over silica (10 g) eluting with hexane:ethyl acetate (2:1). The pure fractions were combined and concentrated in vacuo to give the title compound (43 mg, 97%).

reactant | (1S,2R,4aS,5R,8R,8aR)-2,8a-dihydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 0.10 mmol, 51 mg | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)O)O | C27H35ClN2O6
reactant | hexanoic anhydride | 0.2 mmol, 43 mg | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
catalyst | 4-dimethylaminopyridine | 0.11 mmol, 14 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | (1S,2R,4aS,5R,8R,8aR)-2-(hexanoyloxy)-8a-hydroxy-3,8-dimethyl-5-(1-methylethenyl)-1,2,4a,5,6,7,8,8a-octahydronaphthalen-1-yl (2S,3aR,9bR)-6-chloro-9b -hydroxy-5-methyl-1,2,3,3a,5,9b-hexahydropyrrolo[2,3-c][2,1]benzoxazine-2-carboxylate | 43 mg, 97% | ClC1=CC=CC=2[C@]3([C@@H](ON(C21)C)N[C@@H](C3)C(=O)O[C@H]3[C@@H](C(=C[C@H]2[C@@H](CC[C@H]([C@]32O)C)C(=C)C)C)OC(CCCCC)=O)O | C33H45ClN2O7
